US03984465
Step A: 2,2,3-Trimethyl-3-phenyl-5-methoxy-6,7-dichloro-1-indanone
2-Methyl-3-phenyl-5-methoxy-6,7-dichloro-1-indanone (9.63 g., 0.03 mole) and methyl iodide (18.7 ml., 0.3 mole) dissolved in dimethylformamide (100 ml.) under nitrogen at 25° C. are treated with potassium tert-butoxide (6.72 g., 0.06 mole) portionwise with intermittent cooling in an ice-water bath over a 5 hour period. After exhaustive alkylation, i.e., after the addition of methyl iodide (3 × 20 ml.) followed by potassium tert-butoxide (5 g.), this procedure repeated until the addition of the base gives no green color, acidified with 6N hydrochloric acid to precipitate the product which on trituration with hexane and crystallization from acetic acid: water, 1:1, gives 3.49 g. of (1-oxo-2,2,3-trimethyl-3-phenyl-6,7-dichloro-5-indanyloxy)acetic acid which melts at 189°-190° C.

reactant | 2-Methyl-3-phenyl-5-methoxy-6,7-dichloro-1-indanone | 0.03 mole, 9.63 g | CC1C(C2=C(C(=C(C=C2C1C1=CC=CC=C1)OC)Cl)Cl)=O | C17H14Cl2O2
reactant | methyl iodide | 0.3 mole, 18.7 ml | CI | CH3I
reactant | potassium tert-butoxide | 0.06 mole, 6.72 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 20 ml | CI | CH3I
reactant | potassium tert-butoxide | 5 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | (1-oxo-2,2,3-trimethyl-3-phenyl-6,7-dichloro-5-indanyloxy)acetic acid | O=C1C(C(C2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C1=CC=CC=C1)C)(C)C | C20H18Cl2O4
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2,2,3-Trimethyl-3-phenyl-5-methoxy-6,7-dichloro-1-indanone | CC1(C(C2=C(C(=C(C=C2C1(C1=CC=CC=C1)C)OC)Cl)Cl)=O)C | C19H18Cl2O2
